US08530480B2
3-(2-Chloropyrimidin-4-yl)-5-morpholinobenzonitrile was prepared according procedure B from 2,4-dichloropyrimidine and 3-morpholino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile which was synthesized by following procedure A using 3-bromo-5-morpholinobenzonitrile and bis(pinacolato)diboron.

reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-morpholino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | O1CCN(CC1)C=1C=C(C#N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C17H23BN2O3
reactant | 3-bromo-5-morpholinobenzonitrile | BrC=1C=C(C#N)C=C(C1)N1CCOCC1 | C11H11BrN2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-(2-Chloropyrimidin-4-yl)-5-morpholinobenzonitrile | ClC1=NC=CC(=N1)C=1C=C(C#N)C=C(C1)N1CCOCC1 | C15H13ClN4O
